US05712267
(2S,4S)-4-Mercapto-2-[(3R)-3-(4-nitrobenzyloxycarbonyl)aminopyrrolidin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
Following a procedure similar to that described in Preparation 18, but using 1.29 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid, 365 mg of pivaloyl chloride and 1.14 g of (3R)-3-(4-nitrobenzyloxycarbonyl)aminopyrrolidine trifluoroacetate, 1.09 g of the title compound were obtained as a powder.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 1.29 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | pivaloyl chloride | 365 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | (3R)-3-(4-nitrobenzyloxycarbonyl)aminopyrrolidine trifluoroacetate | 1.14 g | FC(C(=O)O)(F)F.[N+](=O)([O-])C1=CC=C(COC(=O)N[C@H]2CNCC2)C=C1
product | (2S,4S)-4-Mercapto-2-[(3R)-3-(4-nitrobenzyloxycarbonyl)aminopyrrolidin-1-ylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.09 g | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1C[C@@H](CC1)NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H27N5O9S
